US08314100B2
1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-chlorophenyl)piperazine (Compound 14)
Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate and 1-(2-chlorophenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound (yield, 87%). 1H NMR (200 MHz, CDCl3): δ 3.14 (s, 4H), 3.79 (s, 3H), 4.13 (s, 4H), 6.97-7.05 (m, 2H), 7.22-7.28 (m, 2H), 7.33-7.40 (m, 2H), 7.46-7.51 (d, J=10.2 Hz, 1H), 7.66-7.73 (m, 1H).

reactant | Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12FN3O3
reactant | 1-(2-chlorophenyl)piperazine | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
product | 1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-chlorophenyl)piperazine | 87% | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)Cl | C20H19ClFN5O2
